US09376454B2
Step 6. Synthesis of benzyl 5-(2,3-dihydroxypropyl)isoindoline-2-carboxylate
To a suspension of benzyl 5-allylisoindoline-2-carboxylate (294 mg, 1 mmol) in tert-butanol (2.5 mL) and water (2.5 mL) was added N-methylmorpholine-N-oxide (257 mg, 2.2 mmol) followed by osmium tetroxide solution (0.1 mL of 4% wt in water). The resulting mixture was stirred for 3 hr (during which time the mixture becomes homogeneous). This solution was diluted with ethyl acetate, washed with saturated sodium thiosulfate solution then brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by silica chromatography (25 g silica eluted with 3-40% ethyl acetate in hexane) to give the title compound as a white solid.

reactant | benzyl 5-allylisoindoline-2-carboxylate | 1 mmol, 294 mg | C(C=C)C=1C=C2CN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C19H19NO2
reactant | N-methylmorpholine-N-oxide | 2.2 mmol, 257 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 2.5 mL | O | H2O
solvent | tert-butanol | 2.5 mL | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | benzyl 5-(2,3-dihydroxypropyl)isoindoline-2-carboxylate | OC(CC=1C=C2CN(CC2=CC1)C(=O)OCC1=CC=CC=C1)CO | C19H21NO4
